US07749992B2
Step 3. Preparation of 8-Chloro-1,2,3,4-tetrahydro-benzo[b]azepin-5-one
Add a mixture of crude 2-[tert-Butoxycarbonyl-(3-methoxycarbonyl-propyl)-amino]-4-chloro-benzoic acid methyl ester (141.5 g, ˜0.337 mol) in toluene to potassium t-butoxide (95%, 100 g, 0.847 mol) in anhydrous toluene (4.5 L) at 60° C. over 1 h. After heating of 24 h concentrate the mixture under vacuum. Partition the residue between ethyl acetate (1.5 L) and saturated KH2PO4 (1.5 L). Separate the aqueous layer and extract with ethyl acetate (2×0.5 L). Combine the organics and wash with water (2×0.5 L). Remove solvent under vacuum. Dissolve the residue in acetic acid (250 mL) and dilute with 5N HCl (1 L). After heating at 85° C. for 4 h, cool the mixture to room temperature. Basify (pH=10) with 5N sodium hydroxide (ca. 1.8 L) while cooling in an ice bath. Extract the organics with ethyl acetate (3×0.5 L) and wash with brine (0.75 L). Dry over sodium sulfate, filter and concentrate under vacuum. Pass the beige crude product through a pad of silica (8 cmD×3 cmH), eluting with DCM/hexanes (2/1, ca. 3.5 L). Concentrate the crude product under vacuum to give a yellow solid. Recrystallize from EtOAc/hexanes (1/4) to give the title compound (42.85 g, 65%) as an off white solid: H NMR (CDCl3, 300 MHz) δ 4.20 (m, 2H), 4.85 (t, J=4.2 Hz, 2H), 5.29 (t, J=4.2 Hz, 2H), 6.71 (bs, 1H), 8.79-8.82 (m, 2H), 9.68 (d, J=5.1 Hz, 1H).

reactant | 2-[tert-Butoxycarbonyl-(3-methoxycarbonyl-propyl)-amino]-4-chloro-benzoic acid methyl ester | ˜0.337 mol, 141.5 g | COC(C1=C(C=C(C=C1)Cl)N(CCCC(=O)OC)C(=O)OC(C)(C)C)=O | C18H24ClNO6
reactant | potassium t-butoxide | 0.847 mol, 100 g | CC(C)([O-])C.[K+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 4.5 L | C1(=CC=CC=C1)C | C7H8
product | 8-Chloro-1,2,3,4-tetrahydro-benzo[b]azepin-5-one | 42.85 g, 65% | ClC=1C=CC2=C(NCCCC2=O)C1 | C10H10ClNO
